US08293752B2
To a solution of (R)-5-(1-(tert-butoxycarbonylamino)ethyl)-isoxazole-3-carboxylic acid (55 g, 0.215 mol) and Et3N (36 mL, 0.26 mol) in THF (2 L) was added dropwise isobutyl chloroformate (33 mL, 0.26 mol) at −20° C. The reaction mixture was stirred for 1 hr, and a solution of 4-(trifluoromethyl)benzene-1,2-diamine (45.4 g, 0.26 mol) in THF was added. After stirring for 2 h at −20° C., the mixture was allowed to warm up to RT and stirred for another 2 hr. Water was added to quench the reaction and the reaction mixture was evaporated under reduced pressure to remove THF. The aqueous layer was extracted with ethyl acetate (2×). The combined organic layers were washed with water, dried over Na2SO4, filtered and concentrated. The residue was re-dissolved in acetic acid (250 mL) and stirred for 2 hr at 90° C. The solution was concentrated under vacuum and partitioned with ethyl acetate and water. The organic layer was separated, washed with water, Na2CO3 solution and brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by column chromatography to afford compound N.7, (R)-tert-butyl 1-(3-(6-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)isoxazol-5-yl)ethylcarbamate (75.7 g, 88.8%). 1H NMR (DMSO-d6) δ 7.8 (m, 4H), 6.9 (s, 1H), 4.91 (m, 1H), 1.46 (d, 3H), 1.39 (s, 9H).

reactant | (R)-5-(1-(tert-butoxycarbonylamino)ethyl)-isoxazole-3-carboxylic acid | 0.215 mol, 55 g | C(C)(C)(C)OC(=O)N[C@H](C)C1=CC(=NO1)C(=O)O | C11H16N2O5
reactant | Et3N | 0.26 mol, 36 mL | CCN(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.26 mol, 33 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-(trifluoromethyl)benzene-1,2-diamine | 0.26 mol, 45.4 g | FC(C=1C=C(C(=CC1)N)N)(F)F | C7H7F3N2
solvent | THF | 2 L | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | (R)-tert-butyl 1-(3-(6-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)isoxazol-5-yl)ethylcarbamate | 75.7 g, 88.8% | FC(C=1C=CC2=C(NC(=N2)C2=NOC(=C2)[C@@H](C)NC(OC(C)(C)C)=O)C1)(F)F | C18H19F3N4O3
